US09403798B2
3-(tert-Butyl)-5-(chloromethyl)-1H-pyrazole
To a chloroform (20 mL)-dichloromethane (10 mL) mixed solution of [3-(tert-butyl)-1H-pyrazol-5-yl]methanol (617 mg, 4.00 mmol), thionyl chloride (577 μL, 8.01 mmol) was added at room temperature and the resultant solution was stirred at room temperature for 1 day. After completion of the reaction, the reaction solution was concentrated under reduced pressure to obtain a crude product (931 mg) of the title compound.

reactant | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
reactant | [3-(tert-butyl)-1H-pyrazol-5-yl]methanol | 4.00 mmol, 617 mg | C(C)(C)(C)C1=NNC(=C1)CO | C8H14N2O
reactant | thionyl chloride | 8.01 mmol, 577 μL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-(tert-Butyl)-5-(chloromethyl)-1H-pyrazole | 931 mg | C(C)(C)(C)C1=NNC(=C1)CCl | C8H13ClN2
